US06362361B1
Methyl 2,2-di(tertiary-butylperoxy)-1-cycloheptanecarboxylate was prepared by the addition of 92.28% TBHP (tertiary butyl hydroperoxide) (12.21 g, 0.1250 mol) to 99% methyl 2-oxo-1-cycloheptanecarboxylate (8.600 g, 0.0500 mol) at room temperature in a three necked 125-mL round bottomed flask equipped with a thermometer and mechanical stirrer. The solution was then cooled via a dry ice-acetone bath to −5° C. and 78% sulfuric acid (7.540 g, 0.0600 mol) was added dropwise to the solution with temperature at −5° C. Upon completion of the addition of sulfuric acid, the solution was allowed to reach 5° C. where it was maintained by an ice-water bath for ninety minutes with mechanical stirring. The reaction was transferred to a separatory funnel and the lower acidic aqueous layer separated and discarded. The organic layer was then washed with saturated NaCl solution until the aqueous washings had a pH of 4.5 or greater. The organic layer was then dried over MgSO4, filtered through a Buchner funnel and analyzed by gas chromatography. The purity was found to be 17%. This product was not purified due to low conversion of product.

reactant | TBHP | 0.1250 mol, 12.21 g | C(C)(C)(C)OO | C4H10O2
reactant | methyl 2-oxo-1-cycloheptanecarboxylate | 0.0500 mol, 8.600 g | O=C1C(CCCCC1)C(=O)OC | C9H14O3
reactant | sulfuric acid | 0.0600 mol, 7.540 g | S(O)(O)(=O)=O | H2O4S
product | Methyl 2,2-di(tertiary-butylperoxy)-1-cycloheptanecarboxylate | C(C)(C)(C)OOC1(C(CCCCC1)C(=O)OC)OOC(C)(C)C | C17H32O6
